US05843940
2-(4-Methoxyphenyl)-3-[3-(4-bromobutyl)phenyl]-6-methoxybenzo[b]thiophene
A slurry of 4.04 g (11 mmol) of 2-(4-Methoxyphenyl)-3-(3-hydroxyphenyl)-6-methoxybenzo[b]thiophene, 1,4-dibromobutane 26.3 mL (220 mmol), and 3.5 g (25.3 mmol) of K2 CO3 in 200 mL of 2-butanone was preapared. The reaction mixture was heated to reflux for two hours, then filtered, and evaporated to dryness. The resulting oil was chromatographed on a silica gel column eluted with a linear gradient begining with EtOAc-hexane (1:9) (v/v) and ending with EtOAc-hexane (1:4) (v/v). The desired fractions were combined and evaporated to a yellow oil. This yielded 5 g of the title compound.

reactant | 2-(4-Methoxyphenyl)-3-(3-hydroxyphenyl)-6-methoxybenzo[b]thiophene | 11 mmol, 4.04 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C2=CC(=CC=C2)O | C22H18O3S
reactant | 1,4-dibromobutane | 220 mmol, 26.3 mL | BrCCCCBr | C4H8Br2
solvent | 2-butanone | 200 mL | CC(CC)=O | C4H8O
product | 2-(4-Methoxyphenyl)-3-[3-(4-bromobutyl)phenyl]-6-methoxybenzo[b]thiophene | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C2=CC(=CC=C2)CCCCBr | C26H25BrO2S
